US05866572
Using an analogous procedure to that described in Example 5 except that the reaction mixture was heated to reflux for 3 hours, 6-bromo-4-(3-chloro-4-fluoroanilino)quinazoline hydrochloride salt was reacted with di-isopropyl 2-thienylboronate to give 4-(3-chloro-4-fluoroanilino)-6-(2-thienyl)quinazoline in 36% yield, m.p. 205°-208° C.;

reactant | 6-bromo-4-(3-chloro-4-fluoroanilino)quinazoline hydrochloride salt | Cl.BrC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)F)Cl
reactant | di-isopropyl 2-thienylboronate | S1C(=CC=C1)B(OC(C)C)OC(C)C | C10H17BO2S
product | 4-(3-chloro-4-fluoroanilino)-6-(2-thienyl)quinazoline | 36% yield | ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)C=2SC=CC2)C=CC1F | C18H11ClFN3S
